US09340549B2
To a solution of (S)-3-(4-(6-amino-5-bromopyridin-3-yl)phenyl)-5,5-dimethyl-4-phenyloxazolidin-2-one (100 mg, 0.228 mmol) and dioxane (456 μL) were added potassium acetate (112 mg, 1.141 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (63.7 mg, 0.251 mmol) and 1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride (DCM complex) (18.63 mg, 0.023 mmol). The reaction vessel was flushed with argon, sealed and heated at 100° C. for 1 hour in a microwave oven. LC-MS showed complete conversion to the desired products. The reaction was cooled to room temperature and filtered through a syringe filter. The material thus obtained was absorbed onto a plug of silica gel and purified by chromatography through a Redi-Sep pre-packed silica gel column (40 g), eluting with a gradient of 0% to 50% EtOAc in hexane, to provide (S)-3-(4-(6-amino-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-3-yl)phenyl)-5,5-dimethyl-4-phenyloxazolidin-2-one (65 mg, 0.134 mmol, 58.7% yield). m/z (ESI) 404.1 (M-C5H10)+.

reactant | (S)-3-(4-(6-amino-5-bromopyridin-3-yl)phenyl)-5,5-dimethyl-4-phenyloxazolidin-2-one | 0.228 mmol, 100 mg | NC1=C(C=C(C=N1)C1=CC=C(C=C1)N1C(OC([C@@H]1C1=CC=CC=C1)(C)C)=O)Br | C22H20BrN3O2
reactant | potassium acetate | 1.141 mmol, 112 mg | C(C)(=O)[O-].[K+]
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 0.251 mmol, 63.7 mg | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
solvent | dioxane | 456 μL | O1CCOCC1 | C4H8O2
product | (S)-3-(4-(6-amino-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-3-yl)phenyl)-5,5-dimethyl-4-phenyloxazolidin-2-one | 0.134 mmol, 65 mg, 58.7% yield | NC1=C(C=C(C=N1)C1=CC=C(C=C1)N1C(OC([C@@H]1C1=CC=CC=C1)(C)C)=O)B1OC(C(O1)(C)C)(C)C | C28H32BN3O4
